data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2533,2813,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([Cl:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[C:24]([C:25]#[N:26])=[N+:27]([CH3:28])[N-:29][C:30](=[O:31])[O:32][CH3:33]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([Cl:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[N:29]([C:30](=[O:31])[O:32][CH3:33])[N:27]([CH3:28])[C:24]2([C:22]([NH:21][CH3:20])=[O:23])[C:25]#[N:26],water,298.15,25.69006663055213,-33.445566453437216
5215,5918,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][C-:21]([C:22]#[N:23])[C:24](=[O:25])[NH:26][CH3:27])[C:28](=[O:29])[NH:30][CH3:31]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:21]([C:22]#[N:23])([C:24](=[O:25])[NH:26][CH3:27])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:28](=[O:29])[NH:30][CH3:31],water,298.15,10.370570069217178,-30.60978721214289
2524,2803,[CH3:18][NH:19][C:20](=[O:21])[C:22](=[NH+:23][C-:24]([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[NH:23][C:24]2([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30],water,298.15,30.47406116208057,-4.196697751020098
4567,5212,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([C:20]([CH3:21])=[O:22])[n+:23]1[CH3:24]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:19]1([C:20]([CH3:21])=[O:22])[O:18][C:16](=[O:17])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[N:23]1[CH3:24],water,298.15,32.95620000088005,5.266409369819316
1820,2018,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15](=[O:16])[NH:17][CH3:18])=[N+:19]([CH3:20])[C-:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2](=[O:3])[C:4]#[C:5][C:6]([F:7])([F:8])[F:9]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[C:21]([C:22]#[N:23])([c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[N:19]([CH3:20])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,14.333819359681833,-50.71285492536018
1545,1706,[CH3:12][NH:13][C:14](=[O:15])[C:16](=[O+:17][C-:18]([C:19]([CH3:20])=[O:21])[C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:18]([C:19]([CH3:20])=[O:21])([C:22]([CH3:23])=[O:24])[O:17][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:25]([CH3:26])=[O:27],water,298.15,7.09707305144655,-52.03043344289728
4575,5220,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([N+:12]#[C:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)=[N:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,13.01059599997014,-32.22713013905122
260,284,[CH2-:12][N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N:13][CH2:12]2,water,298.15,13.558615616837152,-57.44946234579454
3685,4206,[CH3:9][C:10](=[O:11])[C:12]#[N+:13][CH-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:13]=[C:12]1[C:10]([CH3:9])=[O:11],water,298.15,18.363536177922853,-42.08789884485984
5011,5699,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)=[N+:18]([CH3:19])[C-:20]([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[O:26][CH3:27]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[N:18]([CH3:19])[C:20]1([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,41.55963389944364,-5.063988063595949
